US04544753
c. (4-Amino-5-methylisoxazol-3-yl)-2,6-difluorophenylmethanone
A solution of (5-methyl-4-nitroisoxazol-3-yl)-2,6-difluorophenylmethanone of Example XIIIb (82.6 g, 308 mmoles) in tetrahydrofuran (THF) (200 ml) was added to a mixture of SnCl2.2H2O (210 g, 938 mmoles) in concentrated hydrochloric acid (400 ml) and THF (400 ml) at 15° C. The reaction mixture was stirred at room temperature for 3 hours and poured into a mixture of 50% sodium hydroxide (700 g) and ice with stirring. The organic phase was separated and the aqueous was extracted with ethyl acetate. The organics were combined, washed with saturated sodium chloride, dried (sodium sulfate), and evaporated to give 63 g of an oil. The residue was flash chromatographed (20% ethyl acetate:hexane) to yield 51 g (70%) of an oil that crystallized on standing. The amine (4.0 g) was chromatographed by high pressure liquid chromatography (20% ethyl acetate:hexane) to yield 2.3 g (40%) of a solid, melting point 63°- 68° C.

reactant | (5-methyl-4-nitroisoxazol-3-yl)-2,6-difluorophenylmethanone | CC1=C(C(=NO1)C(=O)C1=C(C=CC=C1F)F)[N+](=O)[O-] | C11H6F2N2O4
reactant | SnCl2.2H2O | 938 mmoles, 210 g | O.O.Cl[Sn]Cl
reactant | sodium hydroxide | 700 g | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 400 ml | Cl | ClH
solvent | THF | 400 ml | O1CCCC1 | C4H8O
product | (4-Amino-5-methylisoxazol-3-yl)-2,6-difluorophenylmethanone | 63 g | NC=1C(=NOC1C)C(=O)C1=C(C=CC=C1F)F | C11H8F2N2O2
